US03965104
10.0 Parts of 1-(2-dimethylaminoethyl)-3-benzoyl-4-hydroxy-4-phenylpiperidine is dissolved in 70 parts of ethanol. To this solution is slowly added 10.0 parts of sodium borohydride and the mixture heated to about 50°C. for 1/2 hour. After cooling to room temperature, the reaction mixture is poured into water. The resulting mixture is extracted three times with ethyl ether and the extracts are combined, dried over magnesium sulfate, and stripped of solvent under reduced pressure to give an oil. This oil is dissolved in ether and n-hexane added to the point of cloudiness. Cooling and filtration of the resulting crystals affords 1-(2-dimethylaminoethyl)-3-(α-hydroxybenzyl)-4-hydroxy-4-phenylpiperidine, melting at 157°-158°C.

reactant | 1-(2-dimethylaminoethyl)-3-benzoyl-4-hydroxy-4-phenylpiperidine | CN(CCN1CC(C(CC1)(C1=CC=CC=C1)O)C(C1=CC=CC=C1)=O)C | C22H28N2O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 1-(2-dimethylaminoethyl)-3-(α-hydroxybenzyl)-4-hydroxy-4-phenylpiperidine | CN(CCN1CC(C(CC1)(C1=CC=CC=C1)O)C(C1=CC=CC=C1)O)C | C22H30N2O2
